* home/kunalg/esim-workspace/my_inv/my_inv.cir

.include test_inv.sub
xu1 test_in vdd test_out  test_inv
v2 vdd gnd  dc 1.8
v1  test_in gnd pulse(0 1.8 1p 10p 10p 1n 2n)
c1  test_out gnd 10f
.tran 10e-12 2e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
